US07767854B2
To a suspension of 60% sodium hydride (168 mg) and anhydrous N,N-dimethylformamide (25 ml) under ice-cooling was added t-butyl trans-4-hydroxycyclohexyl-carbamate (600 mg). The mixture was stirred for 5 minutes, then butyl iodide (821 mg) was added thereto and the mixture was stirred for 3 hours under heating at 80° C. Saturated aqueous ammonium chloride was added to the reaction mixture. The mixture was extracted with toluene, and the organic layer was washed with brine, dried over sodium sulfate, and then the solvent was removed in vacuo. The residue was purified by a silica gel chromatography (eluent: gradient from 100% hexane/0% ethyl acetate to 0% hexane/100% ethyl acetate) to give 630 mg of t-butyl (trans-4-butoxycyclohexyl)carbamate.

reactant | sodium hydride | 168 mg | [H-].[Na+]
reactant | t-butyl trans-4-hydroxycyclohexyl-carbamate | 600 mg | O[C@@H]1CC[C@H](CC1)NC(OC(C)(C)C)=O | C11H21NO3
reactant | butyl iodide | 821 mg | C(CCC)I | C4H9I
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | N,N-dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | t-butyl (trans-4-butoxycyclohexyl)carbamate | 630 mg | C(CCC)O[C@@H]1CC[C@H](CC1)NC(OC(C)(C)C)=O | C15H29NO3
